US04725615
1,2,3,9-Tetrahydro-6-methoxy-4H-carbazol-4-one
1,3-Cyclohexanedione (8 g) was added to a solution of 4-methoxyphenylhydrazine hydrochloride (10 g) in ethanol (350 ml) and water (70 ml). The resulting solution was stirred at room temperature for 3 h and then at reflux for 14 h. On cooling to ambient temperature, the reaction mixture was poured into water (3 l) to give a solid, which was dried in vacuo to give the title compound, (6.0 g) m.p. 279°-279.5°.

reactant | 1,3-Cyclohexanedione | 8 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 10 g | Cl.COC1=CC=C(C=C1)NN
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
solvent | water | 3 l | O | H2O
product | 1,2,3,9-Tetrahydro-6-methoxy-4H-carbazol-4-one | 6.0 g | COC=1C=C2C=3C(CCCC3NC2=CC1)=O | C13H13NO2
